US04025502
Preparation of 2-(1,3-Dimethylbutylazo)-2-methylpropionamidoxime
To 10 ml of water and 6.45 grams (0.0926 moles) of hydroxylamine hydrochloride in a 250 ml 3-neck round bottom flask equipped with a magnetic stirrer, air-cooled condenser, thermometer, and immersed in an ice bath was slowly added 7.42 grams (0.0926 moles) of 50% sodium hydroxide, followed by 100 ml of methanol. To this stirred mixture was added 16.4 grams (0.0906 moles) of 2-(1,3-dimethyl-butylazo)-2-cyanopropane (from Example 4-a-4). The ice bath was removed and the flask stoppered and the reaction mixture stirred for 11/2 hours and allowed to stand over the weekend at room temperature. The insolubles were filtered off and the methanol filtrate was poured into 150 ml water and the product extracted with 100 ml of pentane. The pentane solution was washed twice with 100 ml portions of water, dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure on a rotating evaporator. The product was a yellow liquid and weighed 8.8 grams (46% crude yield). The infrared spectrum of the product was in agreement with the structure of 2-(1,3-dimethylbutylazo)-2-methylpropionamidoxime (strong broad NH and OH bands at 3150-3450 cm-1, a strong imino band at 1750 cm-1 and the absence of the cyano band of the starting material at 2225 cm116 1).

reactant | water | 10 ml | O | H2O
reactant | hydroxylamine hydrochloride | 0.0926 moles, 6.45 grams | Cl.NO
reactant | sodium hydroxide | 0.0926 moles, 7.42 grams | [OH-].[Na+]
reactant | 2-(1,3-dimethyl-butylazo)-2-cyanopropane | 0.0906 moles, 16.4 grams | CC(CC(C)C)N=NC(C)(C)C#N | C10H19N3
solvent | methanol | 100 ml | CO | CH4O
product | 2-(1,3-Dimethylbutylazo)-2-methylpropionamidoxime | CC(CC(C)C)N=NC(C(N)=NO)(C)C | C10H22N4O
